US06914074B2
6-(2,5-Difluoro-4-hydroxyphenyl)-2-naphthol
The title compound was prepared by 2-(2,5-difluoro-4-methoxyphenyl)-6-methoxynaphthalene (1.5 g, 5.0 mmol) with boron tribromide (25 mL of 1.0 M solution in CH2Cl2, 25 mmol) according to method D to yield 1.28 g (94%) of a yellowish solid: mp 217-219° C.; 1H NMR (DMSO-d6): δ 6.90 (1H, dd, J=11.87 Hz, J=7.51 Hz), 7.10-7.15 (2H, m), 7.45 (1H, dd, J=11.87, J=7.61 Hz), 7.53-7.55 (1H, m), 7.74 (1H, d, J=8.65 Hz), 7.92 (1H, s), 9.85 (1H, s), 10.50 (1H, s); MS (ESI) m/z271 (M−H)−.

reactant | 2-(2,5-difluoro-4-methoxyphenyl)-6-methoxynaphthalene | 5.0 mmol, 1.5 g | FC1=C(C=C(C(=C1)OC)F)C1=CC2=CC=C(C=C2C=C1)OC | C18H14F2O2
reactant | boron tribromide | 25 mmol, 1.0 M, 25 mL | B(Br)(Br)Br | BBr3
product | 6-(2,5-Difluoro-4-hydroxyphenyl)-2-naphthol | FC1=C(C=C(C(=C1)O)F)C=1C=C2C=CC(=CC2=CC1)O | C16H10F2O2
